US09029401B2
cis-4-{4-[3-(4-Chloro-3-trifluoromethyl-phenyl)-ureido]-cyclohexyloxy}-pyridine-2-carboxylic acid tert-butyl ester (2318)
To a solution of cis-1-(4-chloro-3-trifluoromethyl-phenyl)-3-(4-hydroxy-cyclohexyl)-urea (0.38 g, 1.13 mmol) and tert-butyl 4-chloropicolinate (0.24 g, 1.13 mmol) in THF (12 mL) was added 1.0 M potassium tert-butoxide solution in THF (3.4 mL, 3.4 mmol) at 0° C. The reaction mixture was allowed to slowly warm to room temperature and then stirred overnight. The reaction was quenched by adding water and the resulting white precipitates were collected and washed with water. Purification by column chromatography (6:4 Hexanes-EtOAc) gave the title compound, 0.32 g (55%) as a yellowish powder. 1H NMR (300 MHz, DMSO-d δ 8.78 (s, 1H), 8.48 (d, J=6 Hz, 1H), 8.09-8.06 (m, 1H), 7.55-7.50 (m, 2H), 7.46 (d, J=2 Hz, 1H), 7.21 (dd, J=6 and 2 Hz, 1H), 6.48 (d, J=8 Hz, 1H), 4.82-4.67 (m, 1H), 3.75-3.59 (m, 1H), 1.91-1.47 (m, 17H).

reactant | cis-1-(4-chloro-3-trifluoromethyl-phenyl)-3-(4-hydroxy-cyclohexyl)-urea | 1.13 mmol, 0.38 g | ClC1=C(C=C(C=C1)NC(=O)N[C@@H]1CC[C@@H](CC1)O)C(F)(F)F | C14H16ClF3N2O2
reactant | tert-butyl 4-chloropicolinate | 1.13 mmol, 0.24 g | ClC1=CC(=NC=C1)C(=O)OC(C)(C)C | C10H12ClNO2
reactant | potassium tert-butoxide | 1.0 M | CC(C)([O-])C.[K+]
solvent | THF | 12 mL | C1CCOC1 | C4H8O
solvent | THF | 3.4 mmol, 3.4 mL | C1CCOC1 | C4H8O
product | cis-4-{4-[3-(4-Chloro-3-trifluoromethyl-phenyl)-ureido]-cyclohexyloxy}-pyridine-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)C1=NC=CC(=C1)O[C@@H]1CC[C@@H](CC1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F | C24H27ClF3N3O4
